US07144911B2
A mixture of 3-(3-amino-phenyl)-acrylic acid methyl ester (6 g) and 10% Pd on activated carbon (1 g) in ethanol (50 ml) was hydrogenated at 30 psi for 18 h and filtered over Celite. Removal of the volatiles in vacuo provided 3-(3-amino-phenyl)propionic acid methyl ester (6 g).

reactant | 3-(3-amino-phenyl)-acrylic acid methyl ester | 6 g | COC(C=CC1=CC(=CC=C1)N)=O | C10H11NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd on activated carbon | 1 g | [Pd] | Pd
product | 3-(3-amino-phenyl)propionic acid methyl ester | 6 g | COC(CCC1=CC(=CC=C1)N)=O | C10H13NO2
